US09315458B2
C) methyl 5-(4-cyano-3-fluorobenzyl)-2-formyl-3,4-dimethylbenzoate
To a mixture of methyl 5-(4-cyano-3-fluorobenzyl)-3,4-dimethyl-2-vinylbenzoate (0.67 g) and sodium periodate (2.22 g) in acetone (15.0 mL)-acetonitrile (15.0 mL)-water (15.0 mL) was added osmium oxide (fixed catalyst I) (0.26 g), and the mixture was stirred overnight at room temperature under argon atmosphere. The reaction mixture was filtered, and the filtrate was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.25 g).

reactant | methyl 5-(4-cyano-3-fluorobenzyl)-3,4-dimethyl-2-vinylbenzoate | 0.67 g | C(#N)C1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=C)C)C)C=C1)F | C20H18FNO2
reactant | sodium periodate | 2.22 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | acetonitrile | 15.0 mL | C(C)#N | C2H3N
reactant | water | 15.0 mL | O | H2O
solvent | acetone | 15.0 mL | CC(=O)C | C3H6O
catalyst | osmium oxide | [Os]=O
catalyst | osmium oxide | 0.26 g | [Os]=O
product | methyl 5-(4-cyano-3-fluorobenzyl)-2-formyl-3,4-dimethylbenzoate | 0.25 g | C(#N)C1=C(C=C(CC=2C(=C(C(=C(C(=O)OC)C2)C=O)C)C)C=C1)F | C19H16FNO3
